US07452892B2
A. Preparation of methyl 2-cyclopropyl-6-(trifluoromethyl)nicotinate
To a stirring solution of (Z)-4-amino-1,1,1-trifluorobut-3-en-2-one (3 g, 21.58 mmol) and methyl 3-cyclopropyl-3-oxopropanoate (3.7 g, 26.03 mmol) in toluene (20 mL) at room temperature under argon was added TFA (2.96 g, 25.92 mmol). The reaction mixture was stirred at reflux for 10 h. The reaction mixture was then cooled to room temperature and concentrated under vacuum to obtain a gum. EtOAc (50 mL) and 15% aqueous sodium carbonate solution (50 mL) were added, and the resulting mixture was stirred at room temperature for 10 min. The organic layer was separated, washed with saturated aqueous NaCl, dried (MgSO4), filtered and concentrated to obtain crude product as a yellow oil. This crude product was purified by automated silica gel chromatography (eluted with ethyl acetate-hexanes) to isolate 1 g of the title compound as a pale yellow oil. HPLC/MS: retention time=3.618 min, [M+H]+=246.

reactant | (Z)-4-amino-1,1,1-trifluorobut-3-en-2-one | 21.58 mmol, 3 g | N\C=C/C(C(F)(F)F)=O | C4H4F3NO
reactant | methyl 3-cyclopropyl-3-oxopropanoate | 26.03 mmol, 3.7 g | C1(CC1)C(CC(=O)OC)=O | C7H10O3
reactant | TFA | 25.92 mmol, 2.96 g | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | sodium carbonate | 50 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | methyl 2-cyclopropyl-6-(trifluoromethyl)nicotinate | 1 g | C1(CC1)C1=C(C(=O)OC)C=CC(=N1)C(F)(F)F | C11H10F3NO2
